US07015218B1
N-(3-Cyano-4-isobutoxyphenyl)-1-(4-fluorophenyl)-5-hydroxypyrazole-4-carboxamide
Ethyl 1-(4-fluorophenyl)-5-hydroxypyrazole-4-carboxylate (1 g) and 5-amino-2-isobutoxybenzonitrile (0.8 g) were added to pyridine (10 ml) and the mixture was stirred at 120° C. for 4 h. After evaporation of the solvent under reduced pressure, hydrochloric acid was added to the residue and the mixture was extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethanol-diisopropyl ether to give the title compound (0.2 g), melting point: 207–208° C.

reactant | Ethyl 1-(4-fluorophenyl)-5-hydroxypyrazole-4-carboxylate | 1 g | FC1=CC=C(C=C1)N1N=CC(=C1O)C(=O)OCC | C12H11FN2O3
reactant | 5-amino-2-isobutoxybenzonitrile | 0.8 g | NC=1C=CC(=C(C#N)C1)OCC(C)C | C11H14N2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-Cyano-4-isobutoxyphenyl)-1-(4-fluorophenyl)-5-hydroxypyrazole-4-carboxamide | 0.2 g | C(#N)C=1C=C(C=CC1OCC(C)C)NC(=O)C=1C=NN(C1O)C1=CC=C(C=C1)F | C21H19FN4O3
